US09260450B2
Step iii. 3-methyl-1-(6-methylpyridin-2-yl)-1H-pyrazol-5-yl trifluoromethanesulfonate
A mixture of 3-methyl-1-(6-methylpyridin-2-yl)-1H-pyrazol-5-ol (10.0 g in CH2Cl2 (100 mL) and Et3N (triethylamine) (8.1 mL) was cooled at −70° C. Triflic anhydride (9.8 mL) was added over 10 minutes while maintaining the temperature below −50° C. The reaction suspension was warmed to room temperature and became a solution. The solution was concentrated to remove most of the CH2Cl2. The solution was loaded directly onto an Analogix SuperFlash SF65-400; using a Biotage auto fraction collector; EtOAc/hexanes (20/80). Fractions containing a colorless liquid were isolated (9.46 g).

reactant | 3-methyl-1-(6-methylpyridin-2-yl)-1H-pyrazol-5-ol | CC1=NN(C(=C1)O)C1=NC(=CC=C1)C | C10H11N3O
reactant | Et3N | 8.1 mL | CCN(CC)CC | C6H15N
reactant | Triflic anhydride | 9.8 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-1-(6-methylpyridin-2-yl)-1H-pyrazol-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=NN1C1=NC(=CC=C1)C)C)(F)F | C11H10F3N3O3S
